US05041455
A. alpha-oximino-3-pyridylacetonitrile
3-pyridylacetonitrile (47.2 g, 400 mmol) was dissolved in a solution of sodium hydroxide (16 g, 400 mmol) in methanol (100 ml). Methylnitrite, generated by dropping a solution of concentrated sulphuric acid (12.8 ml) and water (26 ml) to a solution of sodium nitrite (33.2 g, 480 mmol) in water (20 ml) and methanol (20 ml), was bobled through the 3-pyridylacetonitrile solution at 0° C. The reaction mixture was stirred at 0° C. for 1 h and the precipitate collected by filtration. The precipitate was washed with a little methanol to give the wanted product in 70% (41.1 g) yield. M+ : 147.

reactant | 3-pyridylacetonitrile | 400 mmol, 47.2 g | N1=CC(=CC=C1)CC#N | C7H6N2
reactant | sodium hydroxide | 400 mmol, 16 g | [OH-].[Na+]
reactant | Methylnitrite | CON=O | CH3NO2
reactant | sulphuric acid | 12.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 480 mmol, 33.2 g | N(=O)[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 26 ml | O | H2O
product | alpha-oximino-3-pyridylacetonitrile | N(O)=C(C#N)C=1C=NC=CC1 | C7H5N3O
